US05130119
(d) 2-Benzyloxy-5-fluoro-3-(2,2,2-trifluoroethylcarbamoyl)-benzoic acid ethyl ester
7.96 g (25 mmol) of 2-benzyloxy-5-fluoroisophthalic acid monethyl ester in dissolved or suspended in 50 ml of dry ethyl acetate, 3.57 g (30 mmol) of thionylchloride is added and stirred for 1 hour at 50° C. The reaction solution is then evaporated to dryness under reduced pressure, the residue is evaporated twice with 50 ml of dichloromethane each and dissolved in 30 ml of dry tetrahydrofuran. This solution is mixed with 3.03 g (30 mmol) of triethylamine and then a solution of 2.97 g (30 mmol) of 2,2,2-trifluoroethylamine in 10 ml of dry tetrahydrofuran is instilled. It is stirred for 5 more hours at room temperature, the reaction solution is concentrated by evaporation to oil under reduced pressure, it is dissolved in 80 ml of ethyl acetate and shaken out twice with 10 ml of 1N hydrochloric acid each and once with 10 ml of water. The organic phase is dried on magnesium sulfate, filtered, concentrated by evaporation and the residue is chromatographed on silica gel 60 (Merck) with ethyl acetate/hexane. 7.25 g (18.15 mmol)=72.6% of the theoretical yield of the compound is obtained as an amorphous solid.

reactant | 2-benzyloxy-5-fluoroisophthalic acid | 25 mmol, 7.96 g | C(C1=CC=CC=C1)OC1=C(C(=O)O)C=C(C=C1C(=O)O)F | C15H11FO5
reactant | thionylchloride | 30 mmol, 3.57 g | S(=O)(Cl)Cl | Cl2OS
reactant | triethylamine | 30 mmol, 3.03 g | C(C)N(CC)CC | C6H15N
reactant | 2,2,2-trifluoroethylamine | 30 mmol, 2.97 g | FC(CN)(F)F | C2H4F3N
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-Benzyloxy-5-fluoro-3-(2,2,2-trifluoroethylcarbamoyl)-benzoic acid ethyl ester | C(C)OC(C1=C(C(=CC(=C1)F)C(NCC(F)(F)F)=O)OCC1=CC=CC=C1)=O | C19H17F4NO4
